US04781927
A. N-carbobenzoxy-D-alanine (1-methyl-1-cyclopentyl)ester
To a magnetically stirred solution of 22.3 g (0.1 mol) N-Cbz-D-alanine in 50 mls of dry dichloromethane containing 0.5 mls of concentrated sulfuric acid at 0° C., was added dropwise a 10 g (0.1 mol) sample of 1-methylcyclopentene in 50 mls of dichloromethane. After 5 days of stirring at room temperature, the mixture was heated to reflux for 4 hours, after which the reaction was cooled to room temperature, washed with 100 mls of saturated NaHCO3, 100 mls of water and dried over MgSO4. Filtration followed by evaporation of the solvent yielded 1.81 g of the product.

reactant | N-Cbz-D-alanine | 0.1 mol, 22.3 g | C(=O)(OCC1=CC=CC=C1)N[C@H](C)C(=O)O | C11H13NO4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 1-methylcyclopentene | CC1=CCCC1 | C6H10
solvent | dichloromethane | 50 mls | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mls | ClCCl | CH2Cl2
product | N-carbobenzoxy-D-alanine (1-methyl-1-cyclopentyl)ester | 1.81 g | CC1(CCCC1)OC([C@H](NC(=O)OCC1=CC=CC=C1)C)=O | C17H23NO4
